US04683241
4-cyclohexanoyloxybenzophenone
The title compound was prepared from 6.0 g of 4-hydroxybenzophenone, 6.0 ml of cyclohexanecarbonyl chloride, pyridine (70 ml). Recrystallized from ethyl acetate-ethanol-water; M.P.~111°-112° C.

reactant | 4-hydroxybenzophenone | 6.0 g | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | cyclohexanecarbonyl chloride | 6.0 ml | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
product | 4-cyclohexanoyloxybenzophenone | C1(CCCCC1)C(=O)OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C20H20O3
